US05244863
To a mixture of 2-imino-3-(3-trifluoromethylphenyl)-5-methylthiazoline hydrochloride (7.2 g) and triethylamine (7.4 g) in ethyl acetate (100 ml), trifluoroacetic acid anhydride (5.2 g) was added under stirring at room temperature, and stirring was continued for 3 hours. The residue was washed with water and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give a crystalline residue which was recrystallized from isopropanol to afford 2-trifluoroacetylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline (Compound No. 54) (7.5 g). m.p., 128.1° C.

reactant | 2-imino-3-(3-trifluoromethylphenyl)-5-methylthiazoline hydrochloride | 7.2 g | Cl.N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C
reactant | triethylamine | 7.4 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 5.2 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-trifluoroacetylimino-3-(3-trifluoromethylphenyl)-5-methylthiazoline | FC(C(=O)N=C1SC(=CN1C1=CC(=CC=C1)C(F)(F)F)C)(F)F | C13H8F6N2OS
